Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital
 
Attending: ___
 
Chief Complaint:
Lower extremity Edema
 
Major Surgical or Invasive Procedure:
Renal Biopsy

 
History of Present Illness:
___ with a PMH of ESRD s/p renal transplant in ___ with recent 
admission to CHA for urosepsis and ___ with Cr of 2.8. She was 
given started on IV Gent, changed to Aztreonam and finally 
narrowed to Cipro once sensitivities returned. She completed a 
2w course of abx ending on ___. She was mildly hypotensive and 
had an AM cortisol of 1.9 and she recieved stress dose steroids 
and IVF with thoughts there may be a component of AI and 
hypotension leading to a pre-renal insult. While admitted her Cr 
was trending back to baseline, most recently 1.5. Over the past 
two weeks she reports worsened ___ edema and was found to have a 
Cr of 5.9 at CHA.  

Today, after presenting to CHA with worsened renal function she 
was transferred to ___ for further management. She reports at 
home she has been taking her prednisone and tacrolimus without 
any difficulty. She denies any shortness of breath or orthopnea. 
She has not noted any fevers, chills, or sweats. She denies 
dysuria, or urinary frequency. She does endorse some suprapubic 
discomfort present currently which she attributes to needing to 
use the bathroom and missing her previous dose of oxycodone.  

Of note, multiple providers have demonstrated concerns for the 
patient's mental status following her surgery this ___.  

In the ED, initial vitals were 97 76 104/48 16 96%RA. She was 
seen by renal transplant in the ED who recommended admission to 
___. She was given Vanc for potential cellulitis and 
meropenem for UTI given many previous antibiotic allergies.  
 
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 
 
Past Medical History:
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic  
reflux nephropathy, on prednisone and sirolimus; baseline Cr  
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  
___. HTN  
14. H/o DVT  
15. Anemia  
16. Panic disorder  
17. Polyneuropathy in renal disease  
18. Diastolic dysfunction  
19. Hypothyroidism  
20. Chronic low back pain  
21. Hearing loss of both ears  
22. Recent small intestinal adenoma with endoscopic resection 
c/b bowel performation requiring ex-lap in ___  
23. Recurrent colitis due to Clostridium difficile  
24. UTI (lower urinary tract infection)  
 
 
Social History:
___
Family History:
Son with DM. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
======================
VS: T 97.9 BP 105/47 HR 95 RR 18 SO2 95% RA  
General: Elderly woman in NAD  
HEENT: Sclera anicteric, MMM, no oropharyngeal lesions  
Neck: Supple, JVP normal  
CV: RRR, S1, S2, II/VI SEM at RUSB  
Lungs: Bibasilar crackles, good air movement, no increased WOB  
Abdomen: Multiple scars including recent incision which appear 
to be healing well. G tube in place without surrounding 
erythema. Overnweight, +suprapubic tenderness, no guarding or 
rebound  
GU: No foley  
Ext: WWP, no clubbing or cyanosis, bilateral venous stasis 
changes, 3+ edema to the thigh bilaterally  
Neuro: AAOx3, attentive to ___ in reverse, able to move all 
extremities to command. Bilateral ___ weakness and wheelchair 
bound as baseline.  
Skin: Scattered ecchymosis, abd incision and venous stasis 
changes as above  

PHYSICAL EXAM ON DISCHARGE:
=====================
VS:  T 97.6-98, BP 90-93/44-57, HR 78-87, RR ___
GENERAL: NAD, alert, interactive  
CV: RRR, S1, S2, II/VI SEM at RUSB  
Lungs: CTAB, good air movement, no increased WOB  
Abdomen: Multiple scars including recent incision which appear 
to be healing well. G tube in place without surrounding 
erythema. Overweight, NTND, no rebound or guarding.  Multiple 
lesions on her abdomen.
GU: No foley  
Ext: WWP, no clubbing or cyanosis, bilateral venous stasis 
changes characterized as brown, unraised rashes ___ on shins, 3+ 
edema to the thigh bilaterally that has gone down since she was 
admitted 
Neuro: alert  
Skin: Scattered ecchymosis
 
Pertinent Results:
LABS ON ADMISSION:
================
___ 08:55PM BLOOD WBC-4.2 RBC-3.87* Hgb-10.1* Hct-32.9* 
MCV-85 MCH-26.1* MCHC-30.7* RDW-16.0* Plt ___
___ 08:55PM BLOOD Neuts-56.5 ___ Monos-11.3* 
Eos-5.6* Baso-0.8
___ 08:55PM BLOOD Glucose-90 UreaN-31* Creat-6.0*# Na-131* 
K-3.1* Cl-87* HCO3-29 AnGap-18

LABS ON DISCHARGE:
===============
___ 05:30AM BLOOD WBC-5.0# RBC-3.49* Hgb-9.1* Hct-30.0* 
MCV-86 MCH-25.9* MCHC-30.2* RDW-16.5* Plt ___
___ 05:30AM BLOOD Glucose-134* UreaN-30* Creat-4.8* Na-138 
K-3.6 Cl-99 HCO3-28 AnGap-15
___ 05:30AM BLOOD Calcium-7.6* Phos-5.0*# Mg-1.8
___ 06:57AM BLOOD tacroFK-3.8*

 
Brief Hospital Course:
Patient is a ___ y/o F with a ___ ESRD s/p renal transplant in 
___ who presented to CHA on ___ with ___ edema and worsening 
renal function (Cr 5.9 from baseline of ___ found to have 
acute interstitial nephritis.  

# Acute kidney injury ___ Acute Interstitial Nephritis
Patient presented with worsening renal function and creatinine 
elevation to 6.0. Patient was given fluids, which did not 
substantially improve creatinine.  Renal biopsy performed ___, 
results consistent with acute interstital nephritis thought to 
be most likely caused by ranitidine. Possibility of transplant 
rejection was considered however not likely given findings on 
biopsy consistent with acute interstitial nephritis. Furosemide 
also held during this hospital stay in setting of acute kidney 
injury and was not restarted on discharge. Should consider 
restarting as outpatient in follow up transplant clinic.

# ESRD ___ to chronic reflux nephropathy s/p cadaveric renal 
transplant in ___ 
 Patient continued on tacrolimus and prednisone through hospital 
stay. Acute kidney injury as above was determined not be 
secondary to transplant rejection.  Plan to obtain outpatient 
labs on ___ and follow up in transplant clinic.

# Positive UA
On admission, patient's UA positive for 33 RBCs and 10 WBCs, so 
patient was started on meropenem and tranistioned to ___ on 
___ for presumed UTI. Urine cultures however showed no growth 
and it was determined that WBCs in urine were secondary to acute 
interstitial nephritis as above. Ciproflaxacin discontinued on 
___ and patient remained afebrile and without other signs 
or symptoms concerning for urinary tract infection prior to 
discharge. 

# Adrenal insufficiency
Patient's cortisol noted to be 2.4 in setting of hypotension on  
___. Patient intially given 25 mg hydrocortisone stress dose in 
setting of presumed adrenal insufficiency. Prednisone dose was 
then increased to 20 mg daily prior to discharge. Blood pressure 
returned to normal prior to discharge. Patient will continue 
with 20 mg prednisone dose until follow up in transplant clinic. 


# Hyperphosphatemia ___ metabolic bone disease
Patient's phosphate elevated to 7.3-7.5 on ___.  Most likely 
___ kidney failure and bone mineral disease.  Patient was 
prescribed Aluminum hydroxide 10mL TID for 3 days (day 1, 
___.  On ___, phos was improved to 5.0. Aluminum hydroxide 
was discontinued prior to discharge.

# Leukopenia
Patient's WBC count decreased to 1.5 from 3.1.  Etiology 
unclear, but problem resolved.  WBC improved to 5.0 on ___, 
prior to discharge.

# ___ rash
Patient initially started on Vancomycin on arrival to the ED for 
potential cellulitis, but redness resolved and exam more 
consistent with chronic venous stasis. Antibiotics subsequently 
discontinued and edema in lower extremities improved though were 
at patient's baseline prior to discharge. 

TRANSITIONAL ISSUES:
===============
-furosemide stopped during hospital stay
-ranitidine stopped during hospital stay
-prednisone dose increased to 20 mg daily
-plan for labs on ___ at ___
-needs f/u for G tube as she missed appointment while being 
hospitalized for it's removal

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H pain 
2. Acyclovir 400 mg PO DAILY 
3. Aspirin (Buffered) 81 mg PO DAILY 
4. Calcitriol 0.25 mcg PO BID 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Omeprazole 20 mg PO BID 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
8. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
9. PredniSONE 5 mg PO DAILY 
10. Ranitidine 150 mg PO BID 
11. Rosuvastatin Calcium 40 mg PO DAILY 
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. Voltaren (diclofenac sodium) 1 % topical QD 
14. ClonazePAM 2 mg PO BID 
15. Tacrolimus 1.5 mg PO QAM 
16. Tacrolimus 0.5 mg PO BREAKFAST 
17. Prochlorperazine 10 mg PO Q6H:PRN nausea 
18. Loratadine 10 mg PO DAILY 
19. Furosemide 20 mg PO DAILY 
20. pramipexole 0.25 mg oral DAILY:PRN pain 
21. Furosemide 20 mg PO BID:PRN edema 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain 
2. Acyclovir 400 mg PO DAILY 
3. Calcitriol 0.25 mcg PO BID 
4. ClonazePAM 2 mg PO BID 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
8. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea 
10. Rosuvastatin Calcium 40 mg PO DAILY 
11. Tacrolimus 1.5 mg PO QAM 
12. Tacrolimus 0.5 mg PO BREAKFAST 
13. Voltaren (diclofenac sodium) 1 % topical QD 
14. Aspirin (Buffered) 81 mg PO DAILY 
15. Loratadine 10 mg PO DAILY 
16. Omeprazole 20 mg PO BID 
17. pramipexole 0.25 mg ORAL DAILY:PRN pain 
18. PredniSONE 20 mg PO DAILY 
RX *prednisone 20 mg 1 tablet(s) by mouth every morning Disp 
#*14 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary:
Acute Interstital Nephritis ___ ranitidine

Secondary:
s/p cadaveric Renal transplant: ___
ESRD ___ chronic reflux nephropathy   
Osteopenia ___ chronic steroid use.  
Osteonecrosis of feet c/b osteomyelitis  
CAD: ___ ___
Hyperlipidemia  
GERD  
HTN  
Anemia  
Diastolic dysfunction  
Hypothyroidism  
Chronic low back pain  
Recent small intestinal adenoma with endoscopic resection c/b 
bowel performation requiring ex-lap in ___   
  
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were found to 
have worsening kidney function and you had a kidney biopsy. This 
showed inflammation of the kidney a condition we call acute 
interstitial nephritis. We think this may have happened because 
of a medication you were taking called ranitidine and so we have 
stopped this medication. Please go to a ___ laboratory for 
labs to be drawn on ___. You will be contacted by phone 
next week to set up a renal transplant clinic appointment. 
Please follow up with your primary care doctor in the next ___ 
weeks, number below. Weigh yourself every morning, call MD if 
weight goes up more than 3 lbs.

Sincerely,
Your ___ team
 
Followup Instructions:
___